US06441017B1
Step B: Methanesulfonic Acid 4-Bromo-3-methylphenyl Ester
To a stirred solution of 4-bromo-3-methylphenol (9.87 g, 52.8 mmol) and triethylamine (10.70 g, 106 mmol) in CH2Cl2 (50 mL) at 0° C. was added methanesulfonyl chloride (7.25 g, 63.3 mmol), dropwise. After 30 min at 0° C., the reaction mixture was concentrated in vacuo. The residue was partitioned between saturated aqueous NaHCO3 and EtOAc. The layers were separated and the organic extract was washed with aqueous NaHCO3, then 3 N aqueous HCl, then brine, then dried over Na2SO4, filtered, and concentrated in vacuo to provide the titled product.

reactant | 4-bromo-3-methylphenol | 52.8 mmol, 9.87 g | BrC1=C(C=C(C=C1)O)C | C7H7BrO
reactant | triethylamine | 106 mmol, 10.70 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 63.3 mmol, 7.25 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
product | Methanesulfonic Acid 4-Bromo-3-methylphenyl Ester | BrC1=C(C=C(C=C1)OS(=O)(=O)C)C | C8H9BrO3S
